US06316482B1
A mixture of 4-(2,3-diaminophenyl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (200 mg), glyoxal (47 mg) and sodium hydrogen sulfite (169 mg) in ethanol (15 ml) was refluxed for 5 hours. The solution was diluted with chloroform (30 ml) and the solution was washed with water and brine. The organic solution was dried over magnesium sulfate and the solvent was evaporated in vacuo to give an oil. The crude product was purified by silica gel column (1% methanol in chloroform) to give 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]-4-(quinoxalin-5-yl)carbonylaminobenzamide (131 mg).

reactant | 4-(2,3-diaminophenyl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 200 mg | NC1=C(C=CC=C1N)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C34H44N6O5
reactant | glyoxal | 47 mg | C(=O)C=O | C2H2O2
reactant | sodium hydrogen sulfite | 169 mg | S(=O)(O)[O-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]-4-(quinoxalin-5-yl)carbonylaminobenzamide | 131 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1NC(=O)C1=C2N=CC=NC2=CC=C1 | C36H42N6O5
